US06008239
In a similar manner to Example 1 except that 2-(2,4-difluorophenyl)-1,1-difluoro-1[(2-methoxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol was replaced with 2-(2,4-difluorophenyl)-1,1-difluoro-1-[(2-hydroxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol and methyl iodide was replaced with benzyl chloride, the experiment was carried out, whereby 2-{[2-(benzyloxy)-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propyl]thio}-1-ethanol was obtained as a colorless oil.

reactant | 2-(2,4-difluorophenyl)-1,1-difluoro-1[(2-methoxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol | FC1=C(C=CC(=C1)F)C(C(SCCOC)(F)F)(CN1N=CN=C1)O | C14H15F4N3O2S
reactant | 2-(2,4-difluorophenyl)-1,1-difluoro-1-[(2-hydroxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol | FC1=C(C=CC(=C1)F)C(C(SCCO)(F)F)(CN1N=CN=C1)O | C13H13F4N3O2S
reactant | methyl iodide | CI | CH3I
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 2-{[2-(benzyloxy)-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propyl]thio}-1-ethanol | C(C1=CC=CC=C1)OC(C(F)(F)SCCO)(CN1N=CN=C1)C1=C(C=C(C=C1)F)F | C20H19F4N3O2S
